US08207216B2
To a solution of (3-methoxy-phenyl)-methanol (14.15 g, 102.4 mmol) and triethylamine (32.8 mL, 235.6 mmol) in dry dichloromethane (45 mL) dimethylaminopyridine (1.3 g, 10.2 mmol) and acetic anhydride (11.1 mL, 118.0 mmol) was added at 0° C. and the reaction mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was diluted with EtOAc and washed with 1N HCl solution. The organic solution was dried over Na2SO4, evaporated in vacuo and purified by column chromatography (ethyl acetate:hexane; 5:95) to give the acetic acid 3-methoxy-benzyl ester as a slightly yellow oil (17.84 g, 96%). 1H NMR (CDCl3, 400 MHz) 2.08 (s, 3H), 3.78 (s, 3H), 5.06 (s, 2H), 6.85 (d, J=8.0 Hz, 1H), 6.89 (s, 1H), 6.92 (d, J=8.0 Hz, 1H), 7.25 (t, J=8.0 Hz, 1H), 13C NMR (CDCl3, 100 MHz) 20.6, 54.8, 65.7, 113.30, 113.32, 120.0, 129.2, 137.1, 159.4, 170.4.

reactant | (3-methoxy-phenyl)-methanol | 102.4 mmol, 14.15 g | COC=1C=C(C=CC1)CO | C8H10O2
reactant | triethylamine | 235.6 mmol, 32.8 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10.2 mmol, 45 mL, 1.3 g | ClCCl | CH2Cl2
reactant | acetic anhydride | 118.0 mmol, 11.1 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | acetic acid 3-methoxy-benzyl ester | COC=1C=C(COC(C)=O)C=CC1 | C10H12O3
